US09079866B2
4′-(7-Amino-1H-indol-5-yl)-N-tert-butyl-3′-fluorobiphenyl-2-sulfonamide
Zn dust (123 mg, 1.88 mmol) was added to a solution of N-(tert-butyl)-3′-fluoro-4′-(7-nitro-1H-indol-5-yl)-[1,1′-biphenyl]-2-sulfonamide (23 mg, 0.19 mmol) and NH4Cl (101 mg, 1.88 mmol) in water (0.75 mL) and acetone (3.76 mL). The mixture was stirred at rt for 1 hour and then filtered through Celite. The resulting filtrate was concentrated to dryness and then taken up in water and extracted with EtOAc. The organic extract was dried (Na2SO4), filtered and concentrated to dryness to give the title compound (23 mg, 28%). MS (ESI): mass calcd. for C24H24FN3O2S, 437.16; m/z found, 438.2 [M+H]+. 1H NMR (400 MHz, CDCl3) δ 8.20 (dd, J=8.0, 1.3, 1H), 8.17-8.10 (m, 1H), 7.63-7.56 (m, 2H), 7.54-7.48 (m, 1H), 7.42 (s, 1H), 7.38 (dd, J=7.8, 1.7, 2H), 7.32 (dd, J=11.4, 1.8, 1H), 6.86 (m, 1H), 6.62 (dd, J=3.2, 2.0, 1H), 3.78-3.68 (m, 2H), 1.05 (s, 9H).

reactant | N-(tert-butyl)-3′-fluoro-4′-(7-nitro-1H-indol-5-yl)-[1,1′-biphenyl]-2-sulfonamide | 0.19 mmol, 23 mg | C(C)(C)(C)NS(=O)(=O)C=1C(=CC=CC1)C1=CC(=C(C=C1)C=1C=C2C=CNC2=C(C1)[N+](=O)[O-])F | C24H22FN3O4S
reactant | NH4Cl | 1.88 mmol, 101 mg | [NH4+].[Cl-]
solvent | water | 0.75 mL | O | H2O
solvent | acetone | 3.76 mL | CC(=O)C | C3H6O
catalyst | Zn | 1.88 mmol, 123 mg | [Zn] | Zn
product | 4′-(7-Amino-1H-indol-5-yl)-N-tert-butyl-3′-fluorobiphenyl-2-sulfonamide | 23 mg, 28% | NC=1C=C(C=C2C=CNC12)C1=C(C=C(C=C1)C=1C(=CC=CC1)S(=O)(=O)NC(C)(C)C)F | C24H24FN3O2S
